US08110575B2
4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)-pyridine-2-carboxylic acid
0.17 g (0.79 mmol) methyl 4-bromo-pyridine-2-carboxylate and 17 μL (70 μmol) of a 4M aqueous hydrochloric acid solution were added to 0.20 g (0.78 mmol) 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one in 5.0 mL of 2-propanol. The reaction mixture was refluxed for 2 h, then cooled to RT and evaporated down. The residue was taken up in THF and mixed with 0.50 mL (2.0 mmol) of a 4M aqueous NaOH solution and stirred overnight at RT. The reaction mixture was diluted with water, combined with 0.5 mL conc. HCl and the solvent was eliminated. The precipitated product was suction filtered and dried.

reactant | methyl 4-bromo-pyridine-2-carboxylate | 0.79 mmol, 0.17 g | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | hydrochloric acid | 4M | Cl | ClH
reactant | 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.78 mmol, 0.20 g | NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
solvent | 2-propanol | 5.0 mL | CC(C)O | C3H8O
product | 4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)-pyridine-2-carboxylic acid | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=C2)C(=O)O | C21H16N4O3
